US04286095
A solution of 4.0 g of 3,4-epoxy-1-methyl-4-phenyl-piperidine and 4.5 g of p-toluenesulfonic acid monohydrate in 50 ml of propionic acid was stirred at room temperature for 10 minutes then the mixture evaporated to dryness. Water was added to the residue and the mixture made alkaline with sodium carbonate. The residual solid was filtered off and washed with water. Recrystallization of this solid from hot ethyl acetate gave 2.4 g of 3-hydroxy-1-methyl-4-phenyl-4-propionoxy-piperidine with a melting point of 142°-3° C. The corresponding hydrochloride salt had a melting point of 186°-8° C.

reactant | 3,4-epoxy-1-methyl-4-phenyl-piperidine | 4.0 g | O1C2CN(CCC21C2=CC=CC=C2)C | C12H15NO
reactant | p-toluenesulfonic acid monohydrate | 4.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | propionic acid | 50 ml | C(CC)(=O)O | C3H6O2
product | 3-hydroxy-1-methyl-4-phenyl-4-propionoxy-piperidine | 2.4 g | OC1CN(CCC1(OC(CC)=O)C1=CC=CC=C1)C | C15H21NO3
